US09056859B2
5-[2-(piperazin-1-yl)ethyl]-6-(trifluoromethyl)-2-benzofuran-1(3H)-one hydrochloride was prepared in an analogous fashion to that described for the synthesis of 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride above starting from 5-bromo-6-(trifluoromethyl)-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 315 [M+1]+.

reactant | 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.CC1=C(C=CC=2C(OCC21)=O)CCN2CCNCC2
reactant | 5-bromo-6-(trifluoromethyl)-2-benzofuran-1(3H)-one | BrC1=CC2=C(C(OC2)=O)C=C1C(F)(F)F | C9H4BrF3O2
product | 5-[2-(piperazin-1-yl)ethyl]-6-(trifluoromethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.N1(CCNCC1)CCC1=CC2=C(C(OC2)=O)C=C1C(F)(F)F | InChI=1S/C15H17F3N2O2.ClH/c16-15(17,18)13-8-12-11(9-22-14(12)21)7-10(13)1-4-20-5-2-19-3-6-20;/h7-8,19H,1-6,9H2;1H
